US06506799B1
STEP C (Synthesis of 6-Bromo-2,2-dimethyl-1(tetrahydropyranyloxy)hexane)
In a 500 ml three-neck flask fitted with a condenser and magnetic stirrer was placed under argon a mixture of 6-bromo-2,2-dimethyl-1-hydroxyhexane (25 g, 0.119 mol), dichloromethane (300 ml) and p-toluenesulfonic acid (0.15 g, 0.78 mmol). 3,4-Dihydro-2H-pyran (12.57 g, 0.1495 mol) was added slowly to the mixture at 0° C. The reaction mixture was stirred at room temperature for one hour, and then the mixture was filtered through aluminum oxide, which was further washed with dichloromethane (200 ml). The combined fractions were evaporated under vacuum to provide 33.73 g (97%) of the above-titled compound as a pale-yellow residue, ca. 90%: 1H NMR CDCl3, δ (ppm): 4.48-4.52 (m, 1H), 3.90-3.75 (m, 1H), 3.50-3.35 (m, 4H), 2.95 (d, J=12 Hz, 1H), 1.90-1.20 (m, 12H), 0.90 (s, 6H); 13C NMR CDCl3, δ (ppm): 99.0, 76.2, 61.8, 38.2, 34.0, 33.8, 33.6, 30.5, 25.5, 24.5, 24.4, 22.5, 19.3.

reactant | 6-bromo-2,2-dimethyl-1-hydroxyhexane | 0.119 mol, 25 g | BrCCCCC(CO)(C)C | C8H17BrO
reactant | 3,4-Dihydro-2H-pyran | 0.1495 mol, 12.57 g | O1CCCC=C1 | C5H8O
catalyst | p-toluenesulfonic acid | 0.78 mmol, 0.15 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 6-Bromo-2,2-dimethyl-1(tetrahydropyranyloxy)hexane | 33.73 g, 97% | BrCCCCC(COC1OCCCC1)(C)C | C13H25BrO2
